US06613942B1
The above resin (3.0 g) was suspended in CH2Cl2 (20 mL) and 1-hydroxybenzotriazole (0.6 g), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide, hydrochloride (0.9 g) and DMF (10 mL) were added. The mixture was shaken at room temperature for 45 minutes, hydrazine hydrate (300 μL) was added, and the mixture was shaken overnight at room temperature. The resin was successively washed with DMF (3×20 mL) and CH2Cl2 (3×20 mL) to afford resin bound 3-chloro-4-hydroxybenzoic acid hydrazide (Resin—[Building block 1]).

reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide, hydrochloride | 0.9 g | Cl.CN(CCCN=C=NCC)C
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | hydrazine hydrate | 300 μL | O.NN
reactant | 1-hydroxybenzotriazole | 0.6 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-chloro-4-hydroxybenzoic acid hydrazide | ClC=1C=C(C(=O)NN)C=CC1O | C7H7ClN2O2
